US05656626
8-Chloro-3-hydroxy-4-thiophen-3-yl-1H-benzo(b)azepine-2,5-dione
A solution of 4-(3-thienyl)-8-chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.74 g) in 2.4N HCl/THF (1:1, 600 mL) was allowed to stir at room temperature for 48 hours. The reaction mixture was partitioned between ether and water. The organic portion was dried (MgSO4), filtered, and concentrated in vacuo. The residue was recrystallized twice from ethyl acetate/hexanes (2:1) to afford the title compound (0.173 g); mp 248° C. (dec.); NMR: 11.75 (bs, 1), 10.45 (bs, 1), 7.80 (d, 1, J=8.6), 7.64 (m, 1), 7.48 (m, 2), 7.33 (dd, 1, J=8.6, 2.0), 7.15 (dd, 1, J=5.0, 1.2). Analysis for C14H8O3NSCl: Calculated: C, 55.00; H, 2.64; N, 4.58; Found C, 54.77; H, 2.81; N, 4.56

reactant | 4-(3-thienyl)-8-chloro-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.74 g | S1C=C(C=C1)C=1C(C2=C(NC(C1OC)=O)C=C(C=C2)Cl)=O | C15H10ClNO3S
solvent | HCl THF | 2.4N, 600 mL | Cl.C1CCOC1
product | 8-Chloro-3-hydroxy-4-thiophen-3-yl-1H-benzo(b)azepine-2,5-dione | 0.173 g | ClC=1C=CC2=C(NC(C(=C(C2=O)C2=CSC=C2)O)=O)C1 | C14H8ClNO3S
